US07259266B2
Sodium 6-Ethyl-7-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To the solution of 0.785 g (2.51 mm) of 6-ethyl-7-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid in 20 mL of ethanol was added 24.9 mL of 0.1008 N aqueous solution of sodium hydroxide. The resulting solution was stirred at room temperature for half an hour. The volatiles were removed. The residue was dissolved in 20 mL of water. The resulting solution was frozen and lyophilized to give a light yellow solid. LC-MS (ES−) 301 (M−H, 100). HRMS (ES−) m/z calcd for (M−1; C14H12F3O4) 301.0790, found 301.0810.

reactant | 6-ethyl-7-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.785 g | C(C)C=1C=C2C=C(C(OC2=CC1OC)C(F)(F)F)C(=O)O | C14H13F3O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Sodium 6-Ethyl-7-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | C(C)C=1C=C2C=C(C(OC2=CC1OC)C(F)(F)F)C(=O)[O-].[Na+] | InChI=1S/C14H13F3O4.Na/c1-3-7-4-8-5-9(13(18)19)12(14(15,16)17)21-11(8)6-10(7)20-2;/h4-6,12H,3H2,1-2H3,(H,18,19);/q;+1/p-1
